US07781478B2
To a solution of 6-trifluoromethoxyindole (2.68 g, 13.3 mmol) in dry DMF (10 mL) at 0° C., is added chlorosulfonylisocyanate (2.35 g, 1.44 mL, 16.6 mmol). The mixture is then brought to room temperature slowly and stirred for 1 h. The mixture is poured into ice (100 mL) and stirred for 1 h. The precipitate is collected by filtration and washed thoroughly with water and dried in vacuo, which is then dissolved in DMF (15 mL). To the solution is added K2CO3 and EtI (2.59 g, 1.34 mL, 16.6 mmol), and the mixture is stirred at 50° C. overnight. It is then poured into ice-water (200 mL). The precipitate is collected by filtration and washed with water, dried in air and purified by chromatography (silica gel, DCM) to furnish 1-ethyl-6-trifluoromethoxyindole-3-carbonitrile (2.90 g, 86%).

reactant | 6-trifluoromethoxyindole | 13.3 mmol, 2.68 g | FC(OC1=CC=C2C=CNC2=C1)(F)F | C9H6F3NO
reactant | chlorosulfonylisocyanate | 16.6 mmol, 1.44 mL, 2.35 g | ClS(=O)(=O)N=C=O | CClNO3S
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | EtI | 16.6 mmol, 1.34 mL, 2.59 g | C(C)I | C2H5I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-6-trifluoromethoxyindole-3-carbonitrile | 2.90 g, 86% | C(C)N1C=C(C2=CC=C(C=C12)OC(F)(F)F)C#N | C12H9F3N2O
